US09120822B2
Hydrazine hydrate (2M solution in methanol, 3.56 mL, 7.12 mmol, 8.0 eq) is added at room temperature to a stirred solution of 2-[trans-4-(6-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione (420 mg, 0.89 mmol, 1.0 eq) in dichloromethane (10 mL) and methanol (20 mL). After 16 hours stirring at room temperature and 2 hours stirring at 55° C., solvent is removed and the residue is purified by preparative HPLC to afford 3-(trans-4-amino-cyclohexyl)-6-methoxy-1H-4-oxa-1,5,9-triaza-phenanthren-2-one as a light grey solid (160 mg, 56% yield).

reactant | Hydrazine hydrate | 7.12 mmol, 2M, 3.56 mL, 8.0 eq | O.NN
reactant | 2-[trans-4-(6-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione | 0.89 mmol, 420 mg, 1.0 eq | COC=1N=C2C=3OC(C(N(C3C=NC2=CC1)C)=O)[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C26H24N4O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 3-(trans-4-amino-cyclohexyl)-6-methoxy-1H-4-oxa-1,5,9-triaza-phenanthren-2-one | 160 mg, 56% yield | N[C@@H]1CC[C@H](CC1)C1C(NC=2C=NC3=CC=C(N=C3C2O1)OC)=O | C17H20N4O3
